US05866583
A mixture of 20 ml of ethyl pyridine-2-carboxylate and 27 ml of phenethylamine was stirred at 180° C. for 5 h., with the ethanol formed being distilled off over a 30 cm Vigreux column. Distillation of the residue yielded 30.9 g of pyridine-2-carboxylic acid phenethyl-amide as a yellowish oil, b.p. 150°-155° C./0.8 mbar.

reactant | ethyl pyridine-2-carboxylate | 20 ml | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
reactant | phenethylamine | 27 ml | C(CC1=CC=CC=C1)N | C8H11N
solvent | ethanol | C(C)O | C2H6O
product | pyridine-2-carboxylic acid phenethyl-amide | 30.9 g | C(CC1=CC=CC=C1)NC(=O)C1=NC=CC=C1 | C14H14N2O
